US08076349B2
To (S)-3-((3R,4S)-1-benzyl-4-phenyl-pyrrolidine-3-carbonyl)-4-phenyl-oxazolidin-2-one (9.96 g, 23.35 mmol) in THF (100 mL) in a three-necked flask equipped with a thermometer and addition funnel was added lithium aluminium hydride (48 mL, 1M in THF) dropwise so that the temperature did not exceed 40° C. while keeping the reaction vessel in a water bath. When addition was complete the water bath was removed and the reaction stirred at room temperature overnight. The reaction was carefully quenched with water (1.6 mL), NaOH (1.6 mL, 2N) and water (4.5 mL). After stirring for 15 minutes, the reaction mixture was filtered through a pad of celite and rinsed with THF (40 mL). The filtrate was concentrated to give a pale yellow oil, which was purified by flash silica gel chromatography eluting with ethyl acetate:hexanes (1:1) to give 3.38 g (55%) of ((3R,4S)-1-benzyl-4-phenyl-pyrrolidin-3-yl)-methanol.

reactant | (S)-3-((3R,4S)-1-benzyl-4-phenyl-pyrrolidine-3-carbonyl)-4-phenyl-oxazolidin-2-one | 23.35 mmol, 9.96 g | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=CC=CC=C1)C(=O)N1C(OC[C@@H]1C1=CC=CC=C1)=O | C27H26N2O3
reactant | lithium aluminium hydride | 1M, 48 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | ((3R,4S)-1-benzyl-4-phenyl-pyrrolidin-3-yl)-methanol | 3.38 g, 55% | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=CC=CC=C1)CO | C18H21NO
